Second-Order Control System
V1 1 0 DC 0
R1 1 2 1
C1 2 3 0.2
C2 3 0 0.2
R2 3 0 1
.tran 0.01 10
.print tran V(3)
.control
  set filetype=ascii
  run
  write second_order_control_system.raw
  quit
.endc
.end